US05112947
(2) H-Pro-Ser-Pro-Arg-OH acetate
150 mg of Z-Pro-Ser(Bzl)-Pro-Arg(NO2)-OBzl was reduced in the presence of palladium-carbon in the same manner as in Example 26-(5). The resulting product was purified by high-performance liquid chromatography at 12 ml/min. (flow rate), 0 to 10% (B) 20 min. linear gradient (A) (mobile phase), subjected to Dowex 1×2 (acetate type) treatment and freeze-dried to obtain the desired compound.

reactant | Z-Pro-Ser(Bzl)-Pro-Arg(NO2)-OBzl | 150 mg | N1([C@H](C(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC3=CC=CC=C3)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C41H50N8O10
catalyst | palladium-carbon | [C].[Pd]
product | H-Pro-Ser-Pro-Arg-OH acetate | N1[C@H](C(=O)N[C@@H](CO)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC2)CCC1.CC(=O)O | InChI=1S/C19H33N7O6.C2H4O2/c20-19(21)23-8-2-5-12(18(31)32)24-16(29)14-6-3-9-26(14)17(30)13(10-27)25-15(28)11-4-1-7-22-11;1-2(3)4/h11-14,22,27H,1-10H2,(H,24,29)(H,25,28)(H,31,32)(H4,20,21,23);1H3,(H,3,4)/t11-,12-,13-,14-;/m0./s1
